US09315521B2
To a 0° C. solution of ethyl 2-amino-4-(propan-2-yl)-1,3-thiazole-5-carboxylate (3.6 g, 16.7 mmol) in anhydrous THF (60 mL) was added boron trifluoride diethyl etherate (3.0 mL, 23.9 mmol). After 15 minutes of stirring at 0° C., tert-butyl nitrite (10 mL, 84 mmol) was added. The mixture was stirred at 0° C. for 4 hours before more tert-butyl nitrite (10 mL, 84 mmol) was added. The mixture was stirred at 0° C. for 1 hour before a solution of sodium hypophosphonate (6.2 g, 70.1 mmol) in water (20 mL) was added. The mixture was stirred at 0° C. for 2 hours and at room temperature overnight. The solution was basified to pH 9-10 with 5N NaOH and was extracted with EtOAc (3×60 mL). The organic extracts were combined, extracted with brine (1×100 mL), dried over MgSO4, filtered, evaporated, and dried in vacuo, affording ethyl 4-(propan-2-yl)-1,3-thiazole-5-carboxylate (2.1 g, 63% yield). The product was used without further purification.

reactant | ethyl 2-amino-4-(propan-2-yl)-1,3-thiazole-5-carboxylate | 16.7 mmol, 3.6 g | NC=1SC(=C(N1)C(C)C)C(=O)OCC | C9H14N2O2S
reactant | boron trifluoride diethyl etherate | 23.9 mmol, 3.0 mL | B(F)(F)F.CCOCC
reactant | tert-butyl nitrite | 84 mmol, 10 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | tert-butyl nitrite | 84 mmol, 10 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | sodium | 70.1 mmol, 6.2 g | [Na] | Na
reactant | NaOH | 5N | [OH-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | ethyl 4-(propan-2-yl)-1,3-thiazole-5-carboxylate | 2.1 g, 63% yield | CC(C)C=1N=CSC1C(=O)OCC | C9H13NO2S
